Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pedestrian struck by vehicle (trauma)
 
Major Surgical or Invasive Procedure:
Laceration repair in the ED  
D/C'd chest tube  

 
History of Present Illness:
Ms. ___ is a ___ year old female who presented to the ED on
___ with a mild TBI and spinal fracture and pubic fracture.
She was struck by a car going approximately ___ mph while
walking. It was reported that she was incontinent of stool at 
the
scene although there have been no more episodes of incontinence.
She was taken to an OSH and was found to have a pneumothorax for
which a left chest tube was placed.  CT abdomen/pelvis revealed
an L1 burst fracture with retropulsion and right pubic ramus
fracture.  Non contrast head CT showed a Right sided subdural
hematoma. She was transferred to ___ as a trauma patient for
escalation of ___.

 
Past Medical History:
bipolar
 
Social History:
___
Family History:
no pertinent family medical history 
 
Physical Exam:
Physical Exam at Time of Discharge:

Vitals:
Temp - 98.1
BP - 109 / 70
HR - 83
RR - 17 
SpO2 - 100 Ra     

Gen: NAD, AOx3
CV: RRR
Chest: TLSO in place, dressing over old CT site c/d/i
Resp: breaths unlabored
Abdomen: soft, nontender, nondistended, no rebound or guarding
Ext: WWP, nontender, no peripheral edema
 
Pertinent Results:
___ 06:25AM BLOOD WBC-7.8 RBC-3.57* Hgb-11.0* Hct-34.7 
MCV-97 MCH-30.8 MCHC-31.7* RDW-14.3 RDWSD-51.1* Plt ___
___ 05:30AM BLOOD ___ PTT-28.3 ___
___:25AM BLOOD Glucose-94 Creat-0.6 Na-142 K-4.3 Cl-106 
HCO3-24 AnGap-12
___ 06:25AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.7
___ 05:10PM BLOOD Glucose-140* Lactate-0.9 Creat-0.5 Na-142 
K-3.5 Cl-115* calHCO___
 
Brief Hospital Course:
Ms. ___ is a ___ year old female who presented to the ED on 
___ with a mild TBI and spinal fracture and pubic fracture. 
She was struck by a car going approximately ___ mph while 
walking. It was reported that she was incontinent of stool at 
the scene although there have been no more episodes of 
incontinence.
She was taken to an OSH and was found to have a pneumothorax for 
which a left chest tube was placed.  CT abdomen/pelvis revealed 
an L1 burst fracture with retropulsion and right pubic ramus 
fracture.  Non contrast head CT showed a Right sided subdural 
hematoma. She was transferred to ___ as a trauma patient for 
escalation of ___.

She was admitted to the acute ___ surgery service and received 
the following ___ for her injuries while at ___:

- Right and left thigh lacerations - repaired in the ED.
- L1 fracture with retropulsion - spine surgery was consulted. 
Spine recommended no surgical invention, strict log roll 
precautions when in bed,  TLSO brace ___ in supine position, 
log roll into brace) that must be worn when OOB and when HOB >30 
degrees. Should follow up in 2 weeks with spine. 
- Right pubic ramus and sacral fx - orthopedic surgery was 
consulted.  Ortho determined that the fracture could be treated 
in a closed manner without manipulation at this time.  The 
patient was allowed and encouraged to be weightbearing as 
tolerated with the support of crutches or a walker and should 
follow up in ___ weeks as an outpatient.
- Left PTX s/p L CT at OSH - acute ___ surgery helped manage.  
CT was taken off of suction and put to water seal.  Chest Xray 
showed improvement and the CT was pulled at that time without 
any further issues or complications.  Should follow up with 
acute ___ surgery in 2 weeks. 

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating with a walker while in TLSO, voiding without 
assistance, and pain was well controlled.  The patient was 
discharged to a rehabilitation center. The patient received 
discharge teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan.
 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. ZIPRASidone Hydrochloride 40 mg PO DAILY 
3. ARIPiprazole Extended Release 400 mg IM MONTHLY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  OxyCODONE (Immediate Release) ___ mg PO Q6H:PRN Pain - 
Moderate Duration: 15 Doses  
3.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
4.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
5.  ZIPRASidone Hydrochloride 40 mg PO QHS  
6.  ARIPiprazole Extended Release 400 mg IM MONTHLY  
7.  FLUoxetine 10 mg PO DAILY  

 
Discharge Disposition:
Extended ___
 
Facility:
___
 
Discharge Diagnosis:
L1 fracture with retropulsion, left PTX, small R subdural 
hematoma, right and left thigh lacerations, and right pubic 
ramus and sacral fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - with walker.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ for 
evaluation of L1 fracture with retropulsion, left pneumothorax, 
small R subdural hematoma, right and left thigh lacerations, and 
right pubic ramus and sacral fracture following being struck by 
a vehicle while walking. You are recovering well and are now 
ready for discharge. Please follow the instructions below to 
continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision ___:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___